US06933299B1
2-Bromo-4-nitrophenol
2-Bromo-4-nitroanisole (20 g, 0.086 mol) was dissolved in DMF (414 mL) at rt under N2. Sodium ethylthiolate (17.4 g, 0.207 mol) was added and the reaction mixture was warmed to 115° C. for 2 h. The reaction was cooled to rt and diluted with EtOAc (200 mL) and 1 M HCl (aq., 200 mL). The phases were separated, and the desired product was extracted into 1 M NaOH (aq, 150 mL×3). The basic aqueous extracts were combined and acidified using conc. HCl. The desired product was extracted from the acidic aqueous solution using EtOAc (250 mL×2). The combined organic layers were washed with brine and dried over sodium sulfate. The volatiles were removed in vacuo to afford a light brown semi-solid (9.8 g, 52% yield). 1H NMR (DMSO-d6) δ 8.33 (m, 1H); 8.09 (m, 1H); 7.07 (d, 1H).

reactant | 2-Bromo-4-nitroanisole | 0.086 mol, 20 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
solvent | DMF | 414 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | HCl | 1 M, 200 mL | Cl | ClH
product | 2-Bromo-4-nitrophenol | 9.8 g, 52% yield | BrC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4BrNO3
